US09301951B2
(S)-tert-butyl 1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidine-2-carboxylate
To a solution of L-proline-t-butyl ester (0.096 mmol, 16 mg) in ethanol (0.2 mL) were added (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide (0.032 mmol, 20 mg) and HOAc (0.064 mmol, 4 mg). The mixture was stirred at room temperature for 25 minutes, and then sodium cyanoborohydride (0.16 mmol, 10 mg) was added. The mixture was stirred for an additional 20 minutes and quenched with water. The yellow solid was collected via filtration and was purified by prep HPLC to give a yellow solid (12 mg, 37%). MS (ES, m/z): 786.1 [M+H]+.

reactant | L-proline-t-butyl ester | 0.096 mmol, 16 mg | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide | 0.032 mmol, 20 mg | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CC=O | C38H39N5O4
reactant | HOAc | 0.064 mmol, 4 mg | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.16 mmol, 10 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
product | (S)-tert-butyl 1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidine-2-carboxylate | 12 mg, 37% | CN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)CCN1[C@@H](CCC1)C(=O)OC(C)(C)C | C47H56N6O5
